US09376422B2
To stirred solution of methyl 5-bromo-2-chloro-3-nitrobenzoate (3.4 g, 11.6 mmol) in ethanol (19 mL) was added ammonium chloride (3.4 g, 57.8 mmol) dissolved in water (30 mL) and iron powder (5.16 g, 92.5 mmol). The reaction mixture was heated at 80° C. for 1 h. On completion, the reaction mixture was filtered through celite washing with ethanol and ethylacetate. The filtrate was extracted with ethyl acetate and the combined organic layers were washed with water, dried and concentrated under reduced pressure to give methyl 3-amino-5-bromo-2-chlorobenzoate (2.8 g, 92.1%).

reactant | methyl 5-bromo-2-chloro-3-nitrobenzoate | 11.6 mmol, 3.4 g | BrC=1C=C(C(=C(C(=O)OC)C1)Cl)[N+](=O)[O-] | C8H5BrClNO4
reactant | ammonium chloride | 57.8 mmol, 3.4 g | [Cl-].[NH4+]
solvent | ethanol | 19 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
catalyst | iron | 92.5 mmol, 5.16 g | [Fe] | Fe
product | methyl 3-amino-5-bromo-2-chlorobenzoate | 2.8 g, 92.1% | NC=1C(=C(C(=O)OC)C=C(C1)Br)Cl | C8H7BrClNO2
